* Z:\home\kjetil\code\electronics_projects\projects\network_analysis\branch_current_method\current_and_voltage_source\simulation\simulation.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N001 0 5
R1 Va N001 47
R2 Va 0 180
R4 N002 Va 100
R3 N002 0 100
V2 N002 0 2.75
.op
.backanno
.end
